US09428508B2
To a solution of propan-1-amine (2.36 g, 0.04 mol) in tetrahydrofuran (100 mL) at 0° C. was added triethylamine (4.05 g, 0.04 mol) and 2-nitrobenzene-1-sulfonyl chloride (8.88 g, 0.04 mol) in several portions over 10-15 minutes. The reaction mixture was stirred at room temperature for 4 hours, filtered and concentrated to afford the product 2-nitro-N-propylbenzenesulfonamide (9.18 g, yield 93.9%). 1H NMR (400 MHz, CDCl3) δ ppm 8.11-8.16 (m, 1H), 7.84-7.89 (m, 1H), 7.74-7.79 (m, 2H), 5.26 (s, 1H), 3.05-3.10 (t, 2H, J=6.4 Hz), 1.51-1.60 (m, 2H), 0.89-0.92 (t, 3H, J=7.6 Hz).

reactant | propan-1-amine | 0.04 mol, 2.36 g | C(CC)N | C3H9N
reactant | triethylamine | 0.04 mol, 4.05 g | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzene-1-sulfonyl chloride | 0.04 mol, 8.88 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-nitro-N-propylbenzenesulfonamide | 9.18 g, yield 93.9% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCCC | C9H12N2O4S
